2123-09-29 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2123-9-29**] 04:14 AM
   Has received total of Valium 50 IV, zyprexa 10 po and haldol 5 IV for
   withdrawal and agitation.
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2123-9-29**] 06:24 AM
   Haloperidol (Haldol) - [**2123-9-29**] 06:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-9-29**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 110 (105 - 110) bpm
   BP: 183/103(67) {148/96(67) - 183/112(122)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.2 kg (admission): 68.2 kg
             Total In:
             120 mL
   PO:
             TF:
   IVF:
   120 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     80 mL
   Urine:
   80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   Gen: In bed, tearful, incoherent, disheveled
   Heent: MMM
   CV: RRR
   Pulm: cta ant
   Abd: nontender, normal bs
   Skin: +erythemetous rash in groin c/w yeast
   Peripheral Vascular: (Right radial pulse: present ), (Left radial
   pulse: present ), (Right DP pulse: present ), (Left DP pulse: present
   Neurologic: Responds to: voice, oriented to self only
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   Mr. [**Known lastname 3317**] is a 52 yo male with alcohol abuse, here for alcohol
   withdrawal.
   .
   1. Alcohol withdrawal. Patient presents with acute alcohol withdrawal.
   - Diazepam per CIWA
   - IVFs
   - Thiamine, MVI, folate
   -psych and SW consults
   .
   # CAD: h/o MI, currently w/ ant ST depressions. likely [**2-13**] tachycardia
   -r/o mi by enzymes
   -daily aspirin
   -repeat ekg today when able
   -treat withdrawal which is underlying source for tachycardia
   -consider inpt vs outpt stress test
   .
   #. Agitation/Psych-
   -resume home psych regimen- buspar, trazodone, remeron
   - zyprexa PRN for agitation
   -psych and SW consults in AM
   .
   #. Hypertension. Restart Hctz
   .
   #. H/o seizure disorder. continue keppra
   .
   #. Ppx: PPI, sc heparin, colace
   .
   Access: femoral line placed in ED
 try to obtain PIV
s today,
   discontinue
   presumed full code
   .
   contact: [**Name (NI) 2503**] [**Last Name (NamePattern1) 5400**] [**Doctor Last Name 5401**] House [**Telephone/Fax (1) 5405**]
   ICU Care
   Nutrition: regular diet, replete lytes
   Glycemic Control:  ISS
   Lines: triple lumen cath
   Multi Lumen - [**2123-9-29**] 04:14 AM
   Prophylaxis:
   DVT:  sc heperin
   Stress ulcer:  ppi
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2123-09-30 06:43:00 Physician Resident Progress Note
Chief Complaint: alcohol withdrawal
   24 Hour Events:
   Code purple overnight after patient spit in the face of a nurse.  Given
   10 mg of haldol, 2 mg of ativan.
   Required approximately80 mg of Valium, 2 mg of ativan, 15 mg of haldol
   overnight.
   Evaluated by psych who felt he was too sedated to be interviewed.  They
   recommended stopping mirtazepine and trazodone, so this was stopped.
   They recommended re-consulting if/when patient wants to leave AMA.
   Given lopressor 5 mg IV x 2 for sinus tachycardia.
   Cardiac enzymes negative x 3
   Unable to place peripherals.
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-9-29**] 08:00 AM
   Heparin Sodium - [**2123-9-29**] 08:00 AM
   Lorazepam (Ativan) - [**2123-9-29**] 09:04 PM
   Heparin Sodium (Prophylaxis) - [**2123-9-30**] 12:03 AM
   Haloperidol (Haldol) - [**2123-9-30**] 04:03 AM
   Diazepam (Valium) - [**2123-9-30**] 04:29 AM
   Metoprolol - [**2123-9-30**] 06:33 AM
   Other medications:
   Miconazole
   Diazepam 10 mg IV q1 hour CIWA
   Colace
   Aspirin
   Pantoprazole
   MVI
   Folic Acid 1 mg daily
   Thiamine 100
   Zypresxa prn
   HCTZ 25 daily
   Buspirone
   Keppra 500 mg PO BID
   Advair inh [**Hospital1 **]
   HSQ
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-9-30**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 119 (94 - 138) bpm
   BP: 124/97(102) {112/74(91) - 175/128(134)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.2 kg (admission): 68.2 kg
             Total In:
                                                                  1,710 mL
                                                                     67 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    990 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    360 mL
   Urine:
                                                                  1,635 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                   -293 mL
   Respiratory support
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Gen:  oriented to self only
   HEENT: mask on face
   CV: RRR, no m/r/g
   Pulm: Clear to auscultation bilaterally
   Abd: soft, NT, ND, bowel sounds present
   Ext: no edema
   Labs / Radiology
   209 K/uL
   15.0 g/dL
   114 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   9 mg/dL
   104 mEq/L
   144 mEq/L
   44.4 %
   7.9 K/uL
        [image002.jpg]
                             [**2123-9-29**]  07:07 AM
                             [**2123-9-29**]  02:45 PM
                             [**2123-9-30**]  03:23 AM
   WBC
   7.9
   Hct
   44.4
   Plt
   209
   Cr
   0.7
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   133
   114
   Other labs: PT / PTT / INR:12.3/30.6/1.0, CK / CKMB /
   Troponin-T:197/3/<0.01, ALT / AST:110/80, Ca++:9.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3317**] is a 52 yo male with alcohol abuse, here for alcohol
   withdrawal.
   .
   1. Alcohol withdrawal. Patient now in acute alcohol withdrawal.   Last
   drink was a bottle of vodka on Saturday.
   - Diazepam per CIWA
   - maintenance IVFs
   - Thiamine, MVI, folate
   - psych re: capacity and SW consults
   .
   2. Agitation/Psych.  Psych unable to assess patient given somnolence.
   - d/c remeron, trazodone pre psych recs
   - zyprexa PRN for agitation
   -psych and SW consults in AM
   .
   .
   3. CAD: h/o MI.  Had ant ST depressions on admission in setting of
   tachycardia, now resolved.  Ruled out for MI with enzymes x3.
   -daily aspirin
   -treat withdrawal which is underlying source for tachycardia
   -consider inpt vs outpt stress test
   .
   4.       Hypertension.  Likely secondary to alcohol withdrawal.
   - continue Hctz, daizepam
   .
   5. H/o seizure disorder. continue keppra
   .
   6.  Ppx: PPI, sc heparin, colace
   .
   Access: femoral line placed in ED.  Unable to get peripherals due to
   agitation, so will remain inplace today.
   presumed full code
   .
   contact: [**Name (NI) 2503**] [**Last Name (NamePattern1) 5400**] [**Doctor Last Name 5401**] House [**Telephone/Fax (1) 5405**]
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-9-29**] 04:14 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:  PPI
   VAP:  not needed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2123-10-01 07:19:00 Physician Resident Progress Note
Chief Complaint: ETOH withdrawal
   24 Hour Events:
   - Received 5mg IV lopressor when tachy to 130s with good response
   - Switched to IV ativan and uptitrated on IV haldol to 5-10mg QID to
   decrease amount of benzos given due to suspicion of superimposed benzo
   intoxication.
   - In total over last 24 hours, patient received 30 mg po valium, 80 mg
   IV valium, 8 mg IV ativan, 15 mg IV Haldol. Since 3:30pm last night,
   did not receive any benzos, and required Haldol Q5 hours.
   - Calmer this AM and alert, ate breakfast. Not requiring 4pt restraints
 now on 2pt restraints
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-9-30**] 08:00 AM
   Lorazepam (Ativan) - [**2123-9-30**] 03:29 PM
   Diazepam (Valium) - [**2123-9-30**] 04:00 PM
   Metoprolol - [**2123-9-30**] 04:50 PM
   Haloperidol (Haldol) - [**2123-10-1**] 04:15 AM
   Other medications:
   Keppra 500mg PO BID
   Colace
   Folic Acid
   Thiamine 100mg IV daily
   MVI
   Haldol 5-10mg IV QID prn
   Ativan 1-2mg IV Q2hr prn
   Valium 10mg PO Q2hr prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-10-1**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.6
C (96
   HR: 92 (84 - 136) bpm
   BP: 111/83(90) {111/75(80) - 170/121(137)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 68.2 kg
             Total In:
                                                                  2,225 mL
                                                                    860 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  1,825 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                  1,697 mL
                                                                    480 mL
   Urine:
                                                                  1,697 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    528 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Gen: Disheveled, calm man with slurred speech (baseline?) AOx1
   allowing basic physical exam today, on 2pt restraints
   Lungs: CTA
   CV: RR, no m/r/g
   Ext: WWP
   Labs / Radiology
   207 K/uL
   14.4 g/dL
   83 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   10 mg/dL
   106 mEq/L
   142 mEq/L
   42.6 %
   7.2 K/uL
         [image002.jpg]
                             [**2123-9-29**]  07:07 AM
                             [**2123-9-29**]  02:45 PM
                             [**2123-9-30**]  03:23 AM
                             [**2123-10-1**]  03:21 AM
   WBC
   7.9
   7.2
   Hct
   44.4
   42.6
   Plt
   209
   207
   Cr
   0.7
   0.7
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   133
   114
   83
   Other labs: PT / PTT / INR:13.2/32.9/1.1, CK / CKMB /
   Troponin-T:197/3/<0.01, ALT / AST:111/83, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:31/15, Albumin:3.7 g/dL, LDH:239 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3317**] is a 52 yo male with known alcohol abuse and multiple
   admissions and AMAs readmitted for ETOH withdrawal now not requiring
   benzos.
   .
   1. Alcohol withdrawal. Patient not requiring any benzos since 3:30pm
   yesterday. Now 6 days out of last ETOH.  Patient
s CIWA scales likely
   confounded by agitation not necessarily related to active withdrawal.
   Patient calmer over last 24 hours. Good response to IV Haldol
   - discontinue CIWA scale, can restart if patient appears to be in
   withdrawal
   - Continue IV Haldol and PO Haldol and uptitrate as needed to control
   agitation
   - Check EKG and QTC on haldol
   - Thiamine (can switch to PO), MVI, folate
   - Psych and social work following, appreciate recs
   .
   2. Agitation/Psych.  Improved overnight on Haldol. Also out of window
   period for acute withdrawal. Not requiring 4pt restraints
   - Switch to 2pt restraints if tolerated
   - Haldol per above
   - continue to hold remeron, trazodone pre psych recs
   - zyprexa PRN for agitation
   - f/u psych recs
   .
   3. CAD: h/o MI.  Had ant ST depressions on admission in setting of
   tachycardia, now resolved.  Ruled out for MI with enzymes x3.
   -daily aspirin
   -consider outpt stress test
   .
   4. Hypertension.  Likely worse secondary to alcohol withdrawal.
   - continue home HCTZ, no need for standing metoprolol
   .
   5. H/o seizure disorder. continue keppra
   .
   6.  Ppx: PPI, sc heparin, colace
   .
   Access: femoral line placed in ED.  Unable to get peripherals due to
   agitation, so will remain inplace again today
   presumed full code
   .
   contact: [**Name (NI) 2503**] [**Last Name (NamePattern1) 5400**] [**Doctor Last Name 5401**] House [**Telephone/Fax (1) 5405**]
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-9-29**] 04:14 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:  PPI
   VAP:  not needed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care overnight

2123-10-02 07:09:00 Physician Resident Progress Note
Chief Complaint: EtOH withdrawal, agitation
   24 Hour Events:
   Psych and social work consulted.
   Thought to be intoxicated on benzos; CIWA discontinued.  Ordered for
   haldol PRN with good results for agitation.  Mental status markedly
   improved over the course of the day.
   PIV placed.
   Allergies:
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2123-10-1**] 05:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-10-2**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 98 (71 - 101) bpm
   BP: 114/91(96) {94/65(74) - 147/107(120)} mmHg
   RR: 14 (8 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 68.2 kg
             Total In:
                                                                  1,241 mL
                                                                     40 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,001 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    540 mL
   Urine:
                                                                  2,600 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,359 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   210 K/uL
   14.2 g/dL
   158 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   10 mg/dL
   103 mEq/L
   141 mEq/L
   40.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2123-9-29**]  07:07 AM
                             [**2123-9-29**]  02:45 PM
                             [**2123-9-30**]  03:23 AM
                             [**2123-10-1**]  03:21 AM
                             [**2123-10-2**]  04:53 AM
   WBC
   7.9
   7.2
   7.5
   Hct
   44.4
   42.6
   40.5
   Plt
   [**Telephone/Fax (3) 5485**]
   Cr
   0.7
   0.7
   0.7
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   133
   114
   83
   158
   Other labs: PT / PTT / INR:13.2/32.9/1.1, CK / CKMB /
   Troponin-T:197/3/<0.01, ALT / AST:111/83, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:31/15, Albumin:3.7 g/dL, LDH:239 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3317**] is a 52 yo male with known alcohol abuse and multiple
   admissions and AMAs readmitted for ETOH withdrawal now not requiring
   benzos.
   .
   1. Alcohol withdrawal. Patient not requiring any benzos since 3:30pm
   yesterday. Now 6 days out of last ETOH.  Patient
s CIWA scales likely
   confounded by agitation not necessarily related to active withdrawal.
   Patient calmer over last 24 hours. Good response to IV Haldol
   - discontinue CIWA scale, can restart if patient appears to be in
   withdrawal
   - Continue IV Haldol and PO Haldol and uptitrate as needed to control
   agitation
   - Check EKG and QTC on haldol
   - Thiamine (can switch to PO), MVI, folate
   - Psych and social work following, appreciate recs
   .
   2. Agitation/Psych.  Improved overnight on Haldol. Also out of window
   period for acute withdrawal. Not requiring 4pt restraints
   - Switch to 2pt restraints if tolerated
   - Haldol per above
   - continue to hold remeron, trazodone pre psych recs
   - zyprexa PRN for agitation
   - f/u psych recs
   .
   3. CAD: h/o MI.  Had ant ST depressions on admission in setting of
   tachycardia, now resolved.  Ruled out for MI with enzymes x3.
   -daily aspirin
   -consider outpt stress test
   .
   4. Hypertension.  Likely worse secondary to alcohol withdrawal.
   - continue home HCTZ, no need for standing metoprolol
   .
   5. H/o seizure disorder. continue keppra
   .
   6.  Ppx: PPI, sc heparin, colace
   .
   Access: femoral line placed in ED.  Unable to get peripherals due to
   agitation, so will remain inplace again today
   presumed full code
   .
   contact: [**Name (NI) 2503**] [**Last Name (NamePattern1) 5400**] [**Doctor Last Name 5401**] House [**Telephone/Fax (1) 5405**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-9-29**] 04:14 AM
   20 Gauge - [**2123-10-1**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor